US07485641B2
Step 2: (3R,4R)-1-Benzylpyrrolidine-3,4-diol
To a mechanically stirred and cooled solution (0° C.) of the product from Step 1 (50 g, 0.23 mol) in dry THF (1.24 L) was added sodium aluminum hydride bis-(methoxyethoxide) (289 mL of a 65% Red-A;®/Toluene solution, 0.95 mol) under a nitrogen atmosphere at such a rate that the internal temperature did not exceed 20° C. The reaction mixture was allowed stir at room temperature for 2 h after the addition was complete. The reaction mixture was slowly poured into ice water (1.0 L) with stirring to quench the reaction. After warming to room temperature, 30% ammonium hydroxide (100 mL) was added followed by EtOAc (1.5 L) and this mixture was stirred for 16 h. The suspension was filtered through diatomaceous earth and the solids were washed with EtOAc. The filtrate layers were separated and the organic phase was dried over sodium sulfate and concentrated to afford a syrup. Dissolution in dichloromethane and concentration affords a white solid that is collected and dried (43.7 g, 86%). 1H NMR (400 MHz, CDCl3) δ 7.36-7.23 (5H, m), 6.23 (2H, m), 4.65 (1H, m), 4.15-4.00 (3H, m), 3.62-3.49 (1H, dd), 3.33 (1H, dd), 3.14 (1H, dd), 2.94 (1H dd). MS m/z 194 (MH+).

reactant | sodium aluminum hydride bis-(methoxyethoxide) | COC([O-])C.COC([O-])C.[H-].[Al+3].[Na+]
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
reactant | EtOAc | 1.5 L | CCOC(=O)C | C4H8O2
reactant | THF | 1.24 L | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3R,4R)-1-Benzylpyrrolidine-3,4-diol | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)O | C11H15NO2
